US03950565
2-(1-hydroxy-2-phenylethyl)-2,5-dimethyl-4-hydroxy-3-(2H)-furanone was prepared as follows:
To a mixture of 6 g (0.05 mole) phenylacetaldehyde and 1.28 g (0.01 mole) of 2.5-dimethyl-4-hydroxy-3-(2H)-furanone was added 60 mg of boric acid and the mixture was stirred at 80°C for 3 hours. After working up the reaction mixture as described earlier, 0.57 g (23%) of the title compound was obtained, with melting point 157.5°-159°C.

reactant | phenylacetaldehyde | 0.05 mole, 6 g | C1(=CC=CC=C1)CC=O | C8H8O
reactant | 2.5-dimethyl-4-hydroxy-3-(2H)-furanone | 0.01 mole, 1.28 g | CC1OC(=C(C1=O)O)C | C6H8O3
reactant | boric acid | 60 mg | B(O)(O)O | BH3O3
product | 2-(1-hydroxy-2-phenylethyl)-2,5-dimethyl-4-hydroxy-3-(2H)-furanone | 0.57 g, 23% | OC(CC1=CC=CC=C1)C1(OC(=C(C1=O)O)C)C | C14H16O4
